### PR TITLE
[Merged by Bors] - feat(GroupTheory/Congruences): add the equiv between congruence relations on a group and its normal subgroup

### PR DESCRIPTION
**Pull request by xroblot**
Let `G` be a group, we prove
```lean
{ N : Subgroup G // N.Normal } ≃o Con G
```
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 1]
```diff
@@ -53,6 +53,18 @@ protected def con : Con G where
...
 
+/--
+The congruence relation defined by the kernel of a group homomorphism is equal to its kernel
+as a congruence relation.
+-/
+@[to_additive
+"The additive congruence relation defined by the kernel of an additive group homomorphism is
+equal to its kernel as an additive congruence relation."]
+theorem con_ker_eq_Con_ker {M : Type*} [Monoid M] (f : G →* M) :
+    QuotientGroup.con f.ker = Con.ker f := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:64]: This is in #23244

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 2]
```diff
@@ -150,17 +162,67 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
 @[to_additive (attr := simp)] lemma map_mk'_self : N.map (mk' N) = ⊥ := by aesop
 
+/--
+The subgroup defined by the class of `1` for a congruence relation on a group.
+-/
+@[to_additive
+"The `AddSubgroup` defined by the class of `0` for an additive congruence relation
+on an `AddGroup`."]
+protected def _root_.Con.subgroup (c : Con G) : Subgroup G where
+  carrier := { x | c 1 x }
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:172]: I think we should use
```suggestion
  carrier := { x | c x 1 }
```
here to match the `{r : R | t.ringCon r 0}` used for `TwoSidedIdeal`.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 3]
```diff
@@ -150,17 +162,67 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+instance (c : Con G) : c.subgroup.Normal :=
+  ⟨fun x hx g ↦ by simpa using (c.mul (c.mul (c.refl g) hx) (c.refl g⁻¹))⟩
+
+@[to_additive]
+theorem _root_.Con.subgroup_QuotientGroup_con (H : Subgroup G) [H.Normal] :
+    (QuotientGroup.con H).subgroup = H := by
+  ext
+  simp [QuotientGroup.con, leftRel_apply]
+
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:191]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 4]
```diff
@@ -150,17 +162,67 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+  right_inv c := QuotientGroup.con_subgroup c
+  map_rel_iff' := by
+    simp only [QuotientGroup.con, Equiv.coe_fn_mk, Con.le_def, Con.rel_mk, leftRel_apply]
+    refine ⟨fun h x _ ↦ ?_, fun hle _ _ h ↦ hle h⟩
+    specialize @h 1 x
+    simp_all
+
+@[to_additive]
+lemma con_le_iff {N M : Subgroup G} [N.Normal] [M.Normal] :
+    N ≤ M ↔ QuotientGroup.con N ≤ QuotientGroup.con M :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/GroupTheory/QuotientGroup/Defs.lean:217]: The forward direction (as you have here) is probably worth exposing as `con_mono` as a shorthand.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 5]
```diff
@@ -150,17 +162,67 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+"The `AddSubgroup` defined by the class of `0` for an additive congruence relation
+on an `AddGroup`."]
+protected def _root_.Con.subgroup (c : Con G) : Subgroup G where
+  carrier := { x | c 1 x }
+  one_mem' := c.refl 1
+  mul_mem' hx hy := by simpa using c.mul hx hy
+  inv_mem' h := by simpa using c.inv h
+
+@[to_additive (attr := simp)]
+theorem _root_.Con.subgroup_mem_iff {c : Con G} {x : G} :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:178]:
```suggestion
theorem _root_.Con.mem_subgroup_iff {c : Con G} {x : G} :
```
to read the symbols in the right order

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 6]
```diff
@@ -150,17 +162,67 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+    x ∈ c.subgroup ↔ c 1 x := Iff.rfl
+
+@[to_additive]
+instance (c : Con G) : c.subgroup.Normal :=
+  ⟨fun x hx g ↦ by simpa using (c.mul (c.mul (c.refl g) hx) (c.refl g⁻¹))⟩
+
+@[to_additive]
+theorem _root_.Con.subgroup_QuotientGroup_con (H : Subgroup G) [H.Normal] :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:186]: This is misnamed, it should be
```suggestion
theorem _root_.Con.subgroup_quotientGroupCon (H : Subgroup G) [H.Normal] :
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/QuotientGroup/Defs.lean:172]: (or change `TwoSidedIdeal` if you feel it is backwards)

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 7]
```diff
@@ -53,6 +53,18 @@ protected def con : Con G where
...
   (QuotientGroup.con N).group
 
+/--
+The congruence relation defined by the kernel of a group homomorphism is equal to its kernel
+as a congruence relation.
+-/
+@[to_additive
+"The additive congruence relation defined by the kernel of an additive group homomorphism is
+equal to its kernel as an additive congruence relation."]
+theorem con_ker_eq_Con_ker {M : Type*} [Monoid M] (f : G →* M) :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:63]:
```suggestion
theorem con_ker_eq_conKer {M : Type*} [Monoid M] (f : G →* M) :
```

**Review by eric-wieser — APPROVED** [review]
This is basically what I was hoping for, thanks!

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/GroupTheory/QuotientGroup/Defs.lean]: I have merged #23244 locally to test that and everything was okay. 

Thanks for the review!

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 8]
```diff
@@ -150,17 +162,73 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+    QuotientGroup.con c.subgroup = c := by
+  ext x y
+  rw [QuotientGroup.con, Con.rel_mk, leftRel_apply, Con.mem_subgroup_iff]
+  exact ⟨fun h ↦ by simpa using c.mul (c.refl x) (c.symm h),
+    fun h ↦ by simpa using c.mul (c.refl x⁻¹) (c.symm h)⟩
+
+/--
+The normal subgroups correspond to the congruence relations on a group.
+-/
+@[to_additive
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:202]: Can you add `simps` here?

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 9]
```diff
@@ -150,17 +162,73 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+
+@[to_additive (attr := simp)]
+theorem _root_.Con.mem_subgroup_iff {c : Con G} {x : G} :
+    x ∈ c.subgroup ↔ c x 1 := Iff.rfl
+
+@[to_additive]
+instance (c : Con G) : c.subgroup.Normal :=
+  ⟨fun x hx g ↦ by simpa using (c.mul (c.mul (c.refl g) hx) (c.refl g⁻¹))⟩
+
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:185]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 10]
```diff
@@ -150,17 +162,73 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+    fun h ↦ by simpa using c.mul (c.refl x⁻¹) (c.symm h)⟩
+
+/--
+The normal subgroups correspond to the congruence relations on a group.
+-/
+@[to_additive
+"The normal subgroups correspond to the additive congruence relations on an `AddGroup`."]
+def _root_.Subgroup.orderIsoCon :
+    { N : Subgroup G // N.Normal } ≃o Con G where
+  toFun := fun ⟨N, _⟩ ↦ QuotientGroup.con N
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:206]: This will play better with `simps`:
```suggestion
  toFun N := QuotientGroup.con N
```
or perhaps with N.val on the RHS if necessary.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 11]
```diff
@@ -150,17 +162,73 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+  invFun c := ⟨c.subgroup, inferInstance⟩
+  left_inv := fun ⟨N, _⟩ ↦ Subtype.mk_eq_mk.mpr (Con.subgroup_quotientGroupCon N)
+  right_inv c := QuotientGroup.con_subgroup c
+  map_rel_iff' := by
+    simp only [QuotientGroup.con, Equiv.coe_fn_mk, Con.le_def, Con.rel_mk, leftRel_apply]
+    refine ⟨fun h x _ ↦ ?_, fun hle _ _ h ↦ hle h⟩
+    specialize @h 1 x
+    simp_all
+
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:216]: `simp`?

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 12]
```diff
@@ -150,17 +162,73 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+lemma con_le_iff {N M : Subgroup G} [N.Normal] [M.Normal] :
+    QuotientGroup.con N ≤ QuotientGroup.con M ↔ N ≤ M :=
+  (Subgroup.orderIsoCon.map_rel_iff (a := ⟨N, inferInstance⟩) (b := ⟨M, inferInstance⟩))
+
+@[to_additive]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:221]:
```suggestion
@[to_additive (attr := gcongr)]
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 13]
```diff
@@ -53,6 +53,18 @@ protected def con : Con G where
...
   (QuotientGroup.con N).group
 
+/--
+The congruence relation defined by the kernel of a group homomorphism is equal to its kernel
+as a congruence relation.
+-/
+@[to_additive
+"The additive congruence relation defined by the kernel of an additive group homomorphism is
+equal to its kernel as an additive congruence relation."]
+theorem con_ker_eq_conKer {M : Type*} [Monoid M] (f : G →* M) :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:63]: Could you check the additivized name here is correct? The last part should be `addConKer`.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean (hunk 10 above)
Comment (xroblot) [reply Mathlib/GroupTheory/QuotientGroup/Defs.lean:206]: It doesn't work either way. Lean complains that it cannot synthesize the fact that `N` is normal.

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 14]
```diff
@@ -150,17 +162,75 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+@[to_additive (attr := simp)]
+theorem _root_.Con.mem_subgroup_iff {c : Con G} {x : G} :
+    x ∈ c.subgroup ↔ c x 1 := Iff.rfl
+
+@[to_additive]
+instance (c : Con G) : c.subgroup.Normal :=
+  ⟨fun x hx g ↦ by simpa using (c.mul (c.mul (c.refl g) hx) (c.refl g⁻¹))⟩
+
+@[to_additive (attr := simp)]
+theorem _root_.Con.subgroup_quotientGroupCon (H : Subgroup G) [H.Normal] :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:186]: This one might need a custom to_additive name too

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 15]
```diff
@@ -150,17 +162,75 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+  rw [QuotientGroup.con, Con.rel_mk, leftRel_apply, Con.mem_subgroup_iff]
+  exact ⟨fun h ↦ by simpa using c.mul (c.refl x) (c.symm h),
+    fun h ↦ by simpa using c.mul (c.refl x⁻¹) (c.symm h)⟩
+
+/--
+The normal subgroups correspond to the congruence relations on a group.
+-/
+@[to_additive (attr := simps)
+"The normal subgroups correspond to the additive congruence relations on an `AddGroup`."]
+def _root_.Subgroup.orderIsoCon :
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:204]: Does the additive version have `AddCon` in the name?

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 16]
```diff
@@ -53,6 +53,18 @@ protected def con : Con G where
...
 
+/--
+The congruence relation defined by the kernel of a group homomorphism is equal to its kernel
+as a congruence relation.
+-/
+@[to_additive QuotientAddGroup.con_ker_eq_addConKer
+"The additive congruence relation defined by the kernel of an additive group homomorphism is
+equal to its kernel as an additive congruence relation."]
+theorem con_ker_eq_conKer {M : Type*} [Monoid M] (f : G →* M) :
+    QuotientGroup.con f.ker = Con.ker f := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:64]: `M` is already defined above:
```suggestion
theorem con_ker_eq_conKer (f : G →* M) : QuotientGroup.con f.ker = Con.ker f := by
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean (hunk 14 above)
Comment (xroblot) [reply Mathlib/GroupTheory/QuotientGroup/Defs.lean:186]: Generated name is `AddCon.addSubgroup_quotientAddGroupCon` which looks fine to me...

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 17]
```diff
@@ -150,17 +161,75 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+    QuotientGroup.con c.subgroup = c := by
+  ext x y
+  rw [QuotientGroup.con, Con.rel_mk, leftRel_apply, Con.mem_subgroup_iff]
+  exact ⟨fun h ↦ by simpa using c.mul (c.refl x) (c.symm h),
+    fun h ↦ by simpa using c.mul (c.refl x⁻¹) (c.symm h)⟩
+
+/--
+The normal subgroups correspond to the congruence relations on a group.
+-/
+@[to_additive  (attr := simps) AddSubgroup.orderIsoAddCon
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:201]:
```suggestion
@[to_additive (attr := simps) AddSubgroup.orderIsoAddCon
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 18]
```diff
@@ -150,17 +161,75 @@ theorem mk_zpow (a : G) (n : ℤ) : ((a ^ n : G) : Q) = (a : Q) ^ n :=
...
+"The normal subgroups correspond to the additive congruence relations on an `AddGroup`."]
+def _root_.Subgroup.orderIsoCon :
+    { N : Subgroup G // N.Normal } ≃o Con G where
+  toFun N :=
+    have : N.val.Normal := N.prop
+    QuotientGroup.con N
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean:207]:
```suggestion
  toFun N := letI : N.val.Normal := N.prop; QuotientGroup.con N
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
